US09290485B2
a) Ethyl 1-(2-hydroxy-1-phenylethyl)-1H-pyrazole-4-carboxylate
A mixture of ethyl 1H-pyrazole-4-carboxylate (1.5 g, 10.7 mmol), yttrium (III) nitrate hexahydrate (82.0 mg, 0.214 mmol) and styrene oxide (1.21 ml, 10.7 mmol) was stirred at rt for 17 h, before it was adsorbed on celite. Purification by column chromatography (CombiFlash Companion, 12 g SiO2, heptane to EA) afforded the title compound. LCMS RtM=1.72 min, [M+H]+=261.2.

reactant | ethyl 1H-pyrazole-4-carboxylate | 10.7 mmol, 1.5 g | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | styrene oxide | 10.7 mmol, 1.21 ml | C1C(C2=CC=CC=C2)O1 | C8H8O
catalyst | yttrium (III) nitrate hexahydrate | 0.214 mmol, 82.0 mg | O.O.O.O.O.O.[N+](=O)([O-])[O-].[Y+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
product | Ethyl 1-(2-hydroxy-1-phenylethyl)-1H-pyrazole-4-carboxylate | OCC(C1=CC=CC=C1)N1N=CC(=C1)C(=O)OCC | C14H16N2O3
